US07238714B2
Step 1. 4,5-Difluoro-2-(4-fluorophenoxy)benzoic acid
The title compound was prepared according to the procedure described in step 1 of Example 66 from 2-chloro-4,5-difluorobenzoic acid and 4-fluorophenol: MS (ESI) m/z 222 (M−H)−.

reactant | 2-chloro-4,5-difluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4,5-Difluoro-2-(4-fluorophenoxy)benzoic acid | FC1=CC(=C(C(=O)O)C=C1F)OC1=CC=C(C=C1)F | C13H7F3O3
